US08981104B2
rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(2-{[4-(5-methyl-1,3-benzoxazol-2-yl)benzyl]oxy}phenyl)-ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
5 g (11.35 mmol) of ethyl 5-{(tert-butoxycarbonyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate, 3.51 g (13.62 mmol) of 2-[4-(chloromethyl)phenyl]-5-methyl-1,3-benzoxazole and 3.92 g (28.37 mmol) of potassium carbonate in 50 ml of acetonitrile were heated to 110° C. and stirred at this temperature overnight. After cooling, the reaction mixture was filtered, the filter cake was washed repeatedly with acetonitrile and the combined filtrates were concentrated to dryness on a rotary evaporator. The residue obtained was purified chromatographically on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1→2:1). This gave 6.59 g (9.96 mmol, 87% of theory) of the target compound.

reactant | ethyl 5-{(tert-butoxycarbonyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | 11.35 mmol, 5 g | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)O | C25H32N2O5
reactant | 2-[4-(chloromethyl)phenyl]-5-methyl-1,3-benzoxazole | 13.62 mmol, 3.51 g | ClCC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C | C15H12ClNO
reactant | potassium carbonate | 28.37 mmol, 3.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(2-{[4-(5-methyl-1,3-benzoxazol-2-yl)benzyl]oxy}phenyl)-ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)OCC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C | C40H43N3O6
